US08114873B2
2-(2-Methyl-pyrrolidin-1-yl)-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-isonicotinamide (Compound B130).
Compound is formed by reacting 2-chloro-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-isonicotinamide and 2-methylpyrrolidine under conditions described in general procedure A. 1H NMR (300 MHz, DMSO-d6) δ 10.32 (s, 1H), 8.24 (m, 2H), 7.86 (m, 1H), 7.57 (m, 2H), 7.49 (d, 1H), 7.09 (d, 1H), 7.05 (s, 1H), 7.01 (s, 1H), 4.31 (t, 2H), 3.60 (m, 6H), 2.88 (t, 2H), 2.57 (m, 4H), 2.07 (m, 4H), 1.70 (m, 1H), 1.21 (d, 3H). MS: 461.2 (M+1).

reactant | 2-chloro-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-isonicotinamide | ClC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCN2CCOCC2)C=CN1 | C22H22ClN3O3
reactant | 2-methylpyrrolidine | CC1NCCC1 | C5H11N
product | 2-(2-Methyl-pyrrolidin-1-yl)-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-isonicotinamide | CC1N(CCC1)C=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCN2CCOCC2)C=CN1 | C27H32N4O3
